US06921763B2
A mixture of 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)anilino]-1H-1λ6-benzo[d]isothiazole-1,1-dione (0.09 g, 0.000234 mol), trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.08 g, 0.00018 mol), tetrakis-(triphenylphosphine)palladium (0.013 g, 0.000011 mol) and sodium carbonate (0.048 g, 0.00045 mol) was heated in a mixture of ethylene glycol dimethyl ether (4 mL) and water (2 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield trans-3-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}anilino)-1H-1λ6-benzo[d]isothiazole-1,1-dione acetate (0.075 g, 0.000119 mol) as a white solid.

reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)anilino]-1H-1λ6-benzo[d]isothiazole-1,1-dione | 0.000234 mol, 0.09 g | CC1(OB(OC1(C)C)C1=CC=C(NC2=NS(C3=C2C=CC=C3)(=O)=O)C=C1)C | C19H21BN2O4S
reactant | trans-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00018 mol, 0.08 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate | 0.00045 mol, 0.048 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | trans-3-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}anilino)-1H-1λ6-benzo[d]isothiazole-1,1-dione acetate | 0.000119 mol, 0.075 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(NC1=NS(C3=C1C=CC=C3)(=O)=O)C=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C29H33N9O2S.C2H4O2/c1-36-14-16-37(17-15-36)21-10-12-22(13-11-21)38-29-25(27(30)31-18-32-29)26(34-38)19-6-8-20(9-7-19)33-28-23-4-2-3-5-24(23)41(39,40)35-28;1-2(3)4/h2-9,18,21-22H,10-17H2,1H3,(H,33,35)(H2,30,31,32);1H3,(H,3,4)/t21-,22-;
